US08455477B2
To a 0.10 M solution of 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-[(trimethylsilyl)ethynyl]pyrazolo[1,5-a]pyridine (788 mg, 2.43 mmol) in tetrahydrofuran and methanol (1:1, v/v) was added potassium carbonate (336 mg, 2.43 mmol). The reaction mixture was stirred at ambient temperature for two hours, and then diluted with ethyl acetate. The mixture was washed with saturated aqueous ammonium chloride and brine. The organic layer was separated, and the aqueous layer was back extracted with ethyl acetate three times. The combined organic layers was dried over sodium sulfate, filtered and concentrated to give 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine. LRMS (ESI) calculated for C14H13N4O [M+H]+, 252.1; found 253.0.

reactant | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-[(trimethylsilyl)ethynyl]pyrazolo[1,5-a]pyridine | 2.43 mmol, 788 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#C[Si](C)(C)C | C17H20N4OSi
reactant | potassium carbonate | 2.43 mmol, 336 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | C(#C)C=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C14H12N4O
